US04728663
N-[3-(2-Phenyl-1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine, monohydroiodide
A mixture of 4.0 g of 3-(2-phenyl-1H-imidazol-1-yl)propanamine, 6.5 g of 2-(methylthio)benz[cd]indole hydroiodide, 1.8 g of sodium acetate and 250 ml of ethanol was reacted as described in Example 11. The crude product was recrystallized from a mixture of ethanol and isopropanol giving 3.8 g of the desired product, mp 153° C.-155° C.

reactant | 3-(2-phenyl-1H-imidazol-1-yl)propanamine | 4.0 g | C1(=CC=CC=C1)C=1N(C=CN1)CCCN | C12H15N3
reactant | 2-(methylthio)benz[cd]indole hydroiodide | 6.5 g | I.CSC1=NC2=CC=CC=3C2=C1C=CC3
reactant | sodium acetate | 1.8 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-[3-(2-Phenyl-1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine, monohydroiodide | I.C1(=CC=CC=C1)C=1N(C=CN1)CCCNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C23H20N4.HI/c1-2-7-18(8-3-1)23-25-14-16-27(23)15-6-13-24-22-19-11-4-9-17-10-5-12-20(26-22)21(17)19;/h1-5,7-12,14,16H,6,13,15H2,(H,24,26);1H
